US07214700B2
N-(2-Diethylaminoethyl)-2-(3,5-dimethyl-1H-pyrrol-2-yl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide
(3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydroindol-3-ylidene)-acetic acid (90 mg) was reacted with N,N-diethylethylenediamine (48 mg) using method B to give 37 mg (46%) of the title compound.

reactant | (3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydroindol-3-ylidene)-acetic acid | 90 mg | CC1=C(NC(=C1)C)C(C(=O)O)=C1C(NC2=CC=CC=C12)=O | C16H14N2O3
reactant | N,N-diethylethylenediamine | 48 mg | C(C)N(CCN)CC | C6H16N2
product | N-(2-Diethylaminoethyl)-2-(3,5-dimethyl-1H-pyrrol-2-yl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide | 37 mg, 46% | C(C)N(CCNC(C(=C1C(NC2=CC=CC=C12)=O)C=1NC(=CC1C)C)=O)CC | C22H28N4O2
